US04196149
Following the procedure outline in Example 6, the 1,3,5-triaza-7-phosphaadamantane-7-oxide (7.92 g, 0.04 mol) was hydrolyzed with a solution of 22 g (0.22 mol) of 37.7% hydrochloric acid and 80 g of water, giving, after workup, 5.9 g (60% yield) of tris(aminomethyl)phosphine oxide trihydrochloride, dec. 239° C. without melting.

reactant | 1,3,5-triaza-7-phosphaadamantane-7-oxide | 0.04 mol, 7.92 g | N12CN3CN(CP(C1)(C3)=O)C2 | C6H12N3OP
reactant | hydrochloric acid | 0.22 mol, 22 g | Cl | ClH
solvent | water | 80 g | O | H2O
product | tris(aminomethyl)phosphine oxide trihydrochloride | 5.9 g, 60% yield | Cl.Cl.Cl.NCP(CN)(CN)=O | InChI=1S/C3H12N3OP.3ClH/c4-1-8(7,2-5)3-6;;;/h1-6H2;3*1H
